US05256673
0.02 mol of concentrated ammonia (D=0.9) is added dropwise at 20° to a solution of 4.18 g of methyl 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylate in 30 ml of dimethylformamide. The mixture is stirred for a further hour at 20° and worked up in the customary manner to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxamide, m.p. 207°-208°.

reactant | ammonia | 0.02 mol | N | H3N
reactant | methyl 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylate | 4.18 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)OC | C25H28N2O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxamide | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)N | C24H27N3O
